US07091228B2
To a suspension of N-(3,5-difluorophenyl) thiourea (3.40 g, 18.07 mmol) in DCE (95 mL) was added a solution of bromine in DCE (5 mL) below 30° C. The mixture was heated at reflux for 2.5 h, then cooled to 10° C., and the precipitate formed was collected by filtration and washed with DCE. The solid was stirred with water (200 mL), basified by treatment with conc. ammonium hydroxide, filtered, and dried in a vacuum oven to afford 5,7-difluoro-1,3-benzothiazol-2-amine (3.05 g, 90%). ret. time 2.18; m/z 187.1 (NH+); 1H NMR (400 MHz, DMSO-d6) δ 6.92 (m, 1H), 7.00 (m, 2H), 7.92 (s, 2H).

reactant | N-(3,5-difluorophenyl) thiourea | 18.07 mmol, 3.40 g | FC=1C=C(C=C(C1)F)NC(=S)N | C7H6F2N2S
reactant | bromine | BrBr | Br2
solvent | DCE | 95 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 5,7-difluoro-1,3-benzothiazol-2-amine | 3.05 g, 90% | FC=1C=C(C2=C(N=C(S2)N)C1)F | C7H4F2N2S
